US06420359B1
g) 11-Cyclopropyl-5,11-dihydro-4-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
Diisopropyl azodicarboxylate (DIAD) (167 μL, 0.85 mmol) was added drop-wise to a solution of 11-(cyclopropyl)-5,11-dihydro-8-(2-hydroxyethyl)-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (175 mg, 0.57 mmol), 4-hydroxyquinoline (123 mg, 0.85 mmol) and Ph3P (223 mg, 0.85 mmol) in THF (2.8 mL) at room temperature. The mixture was stirred at room temperature for 3 h then was concentrated under reduced pressure. The residue was dissolved in EtOAc (60 mL) and the solution was successively washed with 3 N aqueous NaOH (3×20 mL), aqueous saturated NH4Cl (20 mL) and brine (20 mL) then was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc:MeOH; 95:5) to give the title compound (74 mg, 30% yield) as a white solid: MS (ESI) m/z 438 (MH)+.

reactant | Diisopropyl azodicarboxylate | 0.85 mmol, 167 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 11-(cyclopropyl)-5,11-dihydro-8-(2-hydroxyethyl)-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.57 mmol, 175 mg | C1(CC1)N1C2=C(NC(C3=C1N=CC(=C3)CCO)=O)C(=CC=N2)C | C17H18N4O2
reactant | 4-hydroxyquinoline | 0.85 mmol, 123 mg | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | Ph3P | 0.85 mmol, 223 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
product | 11-Cyclopropyl-5,11-dihydro-4-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 74 mg, 30% yield | C1(CC1)N1C2=C(NC(C3=C1N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C(=CC=N2)C | C26H23N5O2
